US04880921
Preparation of Valproic acid chloride (2-Propylpentanoyl chloride)
To 4.32 g (30 mmol) of valproic acid in an ice bath, thionyl chloride (3.60 g, 30 mmol) was slowly added, with stirring. The neat mixture was allowed to come to room temperature and then heated in a water bath at 50° C. for 30 minutes. 50 Ml portions of dry benzene were twice added and removed under reduced pressure. The resultant product was used in subsequent reactions without further purification.

reactant | valproic acid | 30 mmol, 4.32 g | C(C(CCC)CCC)(=O)O | C8H16O2
reactant | thionyl chloride | 30 mmol, 3.60 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Valproic acid chloride | C(C(CCC)CCC)(=O)Cl | C8H15ClO
